US05144045
N-[2-[(Hexadecyloxy)methyl]-3-(phenylmethoxy) propyl]octadecanamide
A mixture of 8.0 g of 2-[(hexadecyloxy)methyl]-3-(phenylmethoxy)-1-propanamine, 12.6 g of stearic anhydride, 2.56 g of dimethylaminopyridine and 30 ml of chloroform is stirred overnight, and the solvent evaporated. Ether is added to the residue and this solution washed with dilute hydrochloric acid and saturated aqueous sodium bicarbonate. The solvent is removed and the residue purified by chromatography and then recrystallized from methanol, to give 11.0 g of the desired compound as a white solid, mp. 56°-57° C.

reactant | 2-[(hexadecyloxy)methyl]-3-(phenylmethoxy)-1-propanamine | 8.0 g | C(CCCCCCCCCCCCCCC)OCC(CN)COCC1=CC=CC=C1 | C27H49NO2
reactant | stearic anhydride | 12.6 g | C(CCCCCCCCCCCCCCCCC)(=O)OC(CCCCCCCCCCCCCCCCC)=O | C36H70O3
reactant | dimethylaminopyridine | 2.56 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[2-[(Hexadecyloxy)methyl]-3-(phenylmethoxy) propyl]octadecanamide | 11.0 g | C(CCCCCCCCCCCCCCC)OCC(CNC(CCCCCCCCCCCCCCCCC)=O)COCC1=CC=CC=C1 | C45H83NO3
